US04180662
3500 ml. of absolute chloroform are placed in a 4 liter volume flask and 533 g. of 2,5-dichlorothiophene-3-sulfonic acid chloride are dissolved therein. Dry methylamine is passed in at 20° with stirring until the solution gives a basic reaction with moistened indicator paper. The solution is stirred for an additional 11/2 hours at room temperature, then extracted several times with 0.5 N HCl in a separating funnel, dried with anhydrous sodium sulfate, and finally concentrated by evaporation in vacuo. The oil thus obtained is placed in a low temperature container, where it crystallizes. The product thus obtained is purified by recrystallization from 1500 ml. of carbon tetrachloride, is dried in a vacuum drying cabinet at 40° and 2,5-dichlorothiophene-3-sulfonic acid methylamide having a melting point of 59°-61° is obtained.

reactant | 2,5-dichlorothiophene-3-sulfonic acid chloride | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
reactant | methylamine | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,5-dichlorothiophene-3-sulfonic acid methylamide | CNS(=O)(=O)C1=C(SC(=C1)Cl)Cl | C5H5Cl2NO2S2
